US05124324
2-(tert-Butyldimethylsilyloxymethyl)piperidine
To a DMF (3 ml) solution of 2-piperidinemethanol (1.00 g, 8.7 mmol) and imidazole (1.48 g, 21.7 mmol) was added tert-butyldimethylchlorosilane (1.57 g, 10.4 mmol) at room temperature. After stirring for 30 min., a reaction solution was poured onto water followed by extraction with diethyl ether (about 30 ml). The extract was washed successively with water and saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to afford 1.61 g of the title compound.

reactant | 2-piperidinemethanol | 8.7 mmol, 1.00 g | N1C(CCCC1)CO | C6H13NO
reactant | imidazole | 21.7 mmol, 1.48 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 10.4 mmol, 1.57 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(tert-Butyldimethylsilyloxymethyl)piperidine | 1.61 g | [Si](C)(C)(C(C)(C)C)OCC1NCCCC1 | C12H27NOSi
